US07262185B2
A solution of 5-chloroimidazo[1,2-a]pyridine (2.0 g), 4-aminothiophenol (2.46 g) and triethylamine (1.7 ml) in DMF (10 ml) was stirred for 5 days at 90° C. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 2:1→ethyl acetate), to give 5-(4-aminophenylthio) imidazo[1,2-a]pyridine (2.21 g) as pale yellow crystals.

reactant | 5-chloroimidazo[1,2-a]pyridine | 2.0 g | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
reactant | 4-aminothiophenol | 2.46 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(4-aminophenylthio) imidazo[1,2-a]pyridine | 2.21 g | NC1=CC=C(C=C1)SC1=CC=CC=2N1C=CN2 | C13H11N3S
